US04929613
7-(4-Bromo-2,5-difluorophenyl)-1,4-dioxaspiro[4.4]nonane.
A solution of 27.5 g (0.1 mol) of 3-(4-bromo-2,5-difluorophenyl)cyclopentanone, 18.6 g (0.3 mol) of ethylene glycol, 1 g of p-toluenesulfonic acid and 500 ml of toluene was heated at reflux with a Dean-Stark trap for 18 hours. The cooled solution was washed with 5% sodium bicarbonate solution (2×250 ml), dried (MgSO4), and evaporated in vacuo to give 28.2 g of the title compound which was used without further purification.

reactant | 3-(4-bromo-2,5-difluorophenyl)cyclopentanone | 0.1 mol, 27.5 g | BrC1=CC(=C(C=C1F)C1CC(CC1)=O)F | C11H9BrF2O
reactant | ethylene glycol | 0.3 mol, 18.6 g | C(CO)O | C2H6O2
catalyst | p-toluenesulfonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 7-(4-Bromo-2,5-difluorophenyl)-1,4-dioxaspiro[4.4]nonane | 28.2 g | BrC1=CC(=C(C=C1F)C1CC2(OCCO2)CC1)F | C13H13BrF2O2
